US08084485B2
To a solution of tert-butyl (2S,3S,5S)-5-(benzyloxymethyl)-1-(2,2-dimethylhexanamido)-2-hydroxy-6-methylheptan-3-ylcarbamate (3.8 g, 7.5 mmol) in acetone (50 mL) was added 2,2-dimethoxy-propane (6.0 g, 57.7 mmol). The resulting mixture was cooled to 0° C., BF3Et2O (100 mg, 0.7 mmol) was added. The reaction mixture was allowed to warm to rt and stirred for 2 h. TLC showed the starting material had been consumed. The reaction mixture was quenched with Et3N. The solvent was removed in vacuo and the residue was partitioned between water and EtOAc. The organic layers were washed with H2O and brine, dried over Na2SO4, and evaporated to produce (4S,5R)-tert-butyl 4-((S)-2-(benzyloxymethyl)-3-methylbutyl)-5-((2,2-dimethylhexanamido)methyl)-2,2-dimethyloxazolidine-3-carboxylate (3.0 g, 73%); MS: 547 (M++1).

reactant | tert-butyl (2S,3S,5S)-5-(benzyloxymethyl)-1-(2,2-dimethylhexanamido)-2-hydroxy-6-methylheptan-3-ylcarbamate | 7.5 mmol, 3.8 g | C(C1=CC=CC=C1)OC[C@@H](C[C@@H]([C@H](CNC(C(CCCC)(C)C)=O)O)NC(OC(C)(C)C)=O)C(C)C | C29H50N2O5
reactant | 2,2-dimethoxy-propane | 57.7 mmol, 6.0 g | COC(C)(C)OC | C5H12O2
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | (4S,5R)-tert-butyl 4-((S)-2-(benzyloxymethyl)-3-methylbutyl)-5-((2,2-dimethylhexanamido)methyl)-2,2-dimethyloxazolidine-3-carboxylate | 3.0 g, 73% | C(C1=CC=CC=C1)OC[C@@H](C[C@@H]1N(C(O[C@@H]1CNC(C(CCCC)(C)C)=O)(C)C)C(=O)OC(C)(C)C)C(C)C | C32H54N2O5
